### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix): center of special linear group

### PR DESCRIPTION
**Pull request by shuxuezhuyi**
The center of a special linear group of degree `n` is a subgroup composed of scalar matrices,
in which the scalars are the `n`-th roots of `1`.
Co-authored-by: Oliver Nash <[github@olivernash.org](mailto:github@olivernash.org)>

---

- [x] depends on: #7810
- [x] depends on: #7815

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

**Comment by shuxuezhuyi** [comment]
I have removed `Inhabited n`, at the cost of `center_iso_RootsOfUnity` becoming `noncomputable`.

**Review by ocfnash — COMMENTED** [review]
I have made some code suggestions.

What follows are some comments which are not in scope for this PR but I think are worth making to anyone interested in working in this corner of the library.

I claim our definition `SpecialLinearGroup` should be changed and should really be defined to have type `Subgroup (GeneralLinearMap R M)` rather than just a `Subtype`. Probably we should also have a second definition which would have type `Subgroup (Matrix n n R)ˣ` and could be called something like `SpecialLinearMatrixGroup`. The main point though is that by having type `Subgroup` a lot of boilerplate currently in this file could be dropped.

In addition, it would make it easy to split up the proof here by applying results such as:
```lean
open Subgroup

-- Maybe this exists (quick search did not reveal it)
lemma foo {G : Type*} [Group G] (H : Subgroup G) {g : H} (hg : (g : G) ∈ center G) :
    g ∈ center H :=
  mem_center_iff.mpr fun x ↦ SetCoe.ext <| by simp only [Submonoid.coe_mul, coe_toSubmonoid, hg.comm]

-- Maybe this exists (quick search did not reveal it)
lemma bar {G : Type*} [Group G] (H : Subgroup G) : subgroupOf (center G) H ≤ center H :=
  fun _ hx ↦ foo _ hx
```

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean [hunk 1]
```diff
@@ -251,6 +252,75 @@ def map (f : R →+* S) : SpecialLinearGroup n R →* SpecialLinearGroup n S whe
...
+    ∀ i, A.val i i ^ (Fintype.card n) = 1 ∧
+    A = A.val i i • (1 : Matrix n n R) := by
+  constructor
+  · intro hA i
+    have hA2 := center_scalar ⟨A, hA⟩ i
+    refine (and_iff_left hA2).mpr ?_
+    have hA1 : det A.val = (1 : R) := det_coe A
+    rw [hA2, det_smul_of_tower] at hA1
+    simpa using hA1
+  · wlog hn : IsEmpty n
```
[the remark this answers is not in the document]
Comment (shuxuezhuyi) [reply Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean]: Done.

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean [hunk 2]
```diff
@@ -251,6 +252,104 @@ def map (f : R →+* S) : SpecialLinearGroup n R →* SpecialLinearGroup n S whe
...
+theorem scalar_eq_self_of_mem_center
+    {A : SpecialLinearGroup n R} (hA : A ∈ center (SpecialLinearGroup n R)) (i : n) :
+    scalar n (A i i) = A := by
+  obtain ⟨r : R, hr : scalar n r = A⟩ := mem_range_scalar_of_commute_transvectionStruct fun t ↦
+    Subtype.ext_iff.mp <| Subgroup.mem_center_iff.mp hA ⟨t.toMatrix, by simp⟩
+  simp [← congr_fun₂ hr i i, ← hr]
+
+theorem scalar_eq_coe_self_center
+    (A : center (SpecialLinearGroup n R)) (i : n) :
+    scalar n ((A : Matrix n n R) i i) = A :=
```
Comment (shuxuezhuyi) [inline Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:280]: I removed the `@[simp]`, because I think the left side is actually simpler.

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean [hunk 3]
```diff
@@ -251,6 +252,104 @@ def map (f : R →+* S) : SpecialLinearGroup n R →* SpecialLinearGroup n S whe
...
+      right_inv := fun a => by refine SetCoe.ext $ Units.eq_iff.mp ?_; simp [instHSMul, SMul.smul]
+      map_mul' := fun A B => by
+        simp only
+        have hAB : (A * B).val.val = A.val.val * B.val.val := by simp
+        conv_lhs => arg 1; rw [hAB]
+        refine SetCoe.ext <| Units.eq_iff.mp ?_
+        obtain ⟨_, _, hA⟩ := mem_center_iff.mp A.property
+        obtain ⟨_, _, hB⟩ := mem_center_iff.mp B.property
+        simp [@mul_apply, ← hA, ← hB, scalar_apply, diagonal]
+    }
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:349]: You should avoid building definitions in tactic mode because the terms it creates are usually difficult to work with. Additionally I think the result here is best split into two pieces as follows:
```suggestion
/-- An equivalence of groups, from the center of the special linear group to the roots of unity. -/
def center_equiv_rootsOfUnity' (i : n) :
    center (SpecialLinearGroup n R) ≃* rootsOfUnity (Fintype.card n).toPNat' R where
  toFun A := rootsOfUnity.mkOfPowEq (↑ₘA i i) <| by
    have : Nonempty n := ⟨i⟩
    obtain ⟨r, hr, hr'⟩ := mem_center_iff.mp A.property
    replace hr' : A.val i i = r := by simp [← hr']
    simp [hr, hr']
  invFun a := ⟨⟨a • (1 : Matrix n n R), by aesop⟩,
    Subgroup.mem_center_iff.mpr fun B ↦ Subtype.val_injective <| by simp [coe_mul]⟩
  left_inv A := by
    -- Your proof here
    sorry
  right_inv a := by
    obtain ⟨⟨a, _⟩, ha⟩ := a
    refine SetCoe.ext <| Units.eq_iff.mp <| by simp
  map_mul' A B := by
    -- Your proof here
    sorry

open Classical in
/-- An equivalence of groups, from the center of the special linear group to the roots of unity.

See also `center_equiv_rootsOfUnity'`. -/
noncomputable def center_equiv_rootsOfUnity :
    center (SpecialLinearGroup n R) ≃* rootsOfUnity (Fintype.card n).toPNat' R :=
  (isEmpty_or_nonempty n).by_cases
  (fun hn ↦ by
    rw [center_eq_bot_of_subsingleton, Fintype.card_eq_zero, Nat.toPNat'_zero, rootsOfUnity_one]
    exact MulEquiv.mulEquivOfUnique)
  (fun hn ↦ center_equiv_rootsOfUnity' (Classical.arbitrary n))
```

Comment (ocfnash) [reply Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:349]: Note that to get the above to work you'll have to add the following missing results elsewhere in the library:
```lean
-- Nearby definition of `rootsOfUnity`
@[simp] theorem rootsOfUnity_one (M : Type*) [CommMonoid M] : rootsOfUnity 1 M = ⊥ := by ext; simp

-- Beside definition of `Nat.toPNat'`
@[simp] theorem Nat.toPNat'_zero : Nat.toPNat' 0 = 1 := rfl

-- Just below `Units.smul_def`
@[to_additive, simp]
theorem Units.smul_mk_apply {M α : Type*} [Monoid M] [SMul M α] (m n : M) (h₁) (h₂) (a : α) :
    (⟨m, n, h₁, h₂⟩ : Mˣ) • a = m • a :=
  rfl
```

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean [hunk 4]
```diff
@@ -251,6 +259,81 @@ def map (f : R →+* S) : SpecialLinearGroup n R →* SpecialLinearGroup n S whe
...
+    center (SpecialLinearGroup n R) ≃* rootsOfUnity (Fintype.card n).toPNat' R where
+  toFun A := rootsOfUnity.mkOfPowEq (↑ₘA i i) <| by
+    have : Nonempty n := ⟨i⟩
+    obtain ⟨r, hr, hr'⟩ := mem_center_iff.mp A.property
+    replace hr' : A.val i i = r := by simp [← hr']
+    simp [hr, hr']
+  invFun a := ⟨⟨a • (1 : Matrix n n R), by aesop⟩,
+    Subgroup.mem_center_iff.mpr fun B ↦ Subtype.val_injective <| by simp [coe_mul]⟩
+  left_inv A := by
+    refine SetCoe.ext $ SetCoe.ext ?_
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:306]: We used to allow `$` but now we ask people to [use `<|` instead](https://leanprover-community.github.io/contribute/style.html#whitespace-and-delimiters).
```suggestion
    refine SetCoe.ext <| SetCoe.ext ?_
```

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean [hunk 5]
```diff
@@ -251,6 +259,81 @@ def map (f : R →+* S) : SpecialLinearGroup n R →* SpecialLinearGroup n S whe
...
+    obtain ⟨r, _, hr⟩ := mem_center_iff.mp A.property
+    simp only [instHSMul, SMul.smul, Submonoid.coe_subtype, ← hr, scalar_apply, diagonal, of_apply,
+      ↓reduceIte, SMul.comp.smul]
+    aesop
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:310]: You should never unfold instance definitions (in this case you're doing this by including `instHSMul` and `SMul.smul` in your list). Instead you should use API lemmas (and add them if they are missing).

In this case there is no missing API so this proof can be just:
```suggestion
    simpa [← hr, Submonoid.smul_def, Units.smul_def] using smul_one_eq_diagonal r
```

Comment (ocfnash) [reply Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:310]: An advantage of this approach is the proofs like this one are not sensitive to the instance definition, but depend merely upon its API (making future refactoring much easier).

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean [hunk 6]
```diff
@@ -251,6 +259,81 @@ def map (f : R →+* S) : SpecialLinearGroup n R →* SpecialLinearGroup n S whe
...
+    obtain ⟨⟨a, _⟩, ha⟩ := a
+    refine SetCoe.ext <| Units.eq_iff.mp <| by simp
+  map_mul' A B := by
+    simp only
+    have hAB : (A * B).val.val = A.val.val * B.val.val := by simp
+    conv_lhs => arg 1; rw [hAB]
+    refine SetCoe.ext <| Units.eq_iff.mp ?_
+    obtain ⟨_, _, hA⟩ := mem_center_iff.mp A.property
+    obtain ⟨_, _, hB⟩ := mem_center_iff.mp B.property
+    simp [@mul_apply, ← hA, ← hB, scalar_apply, diagonal]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:321]:
```suggestion
    ext
    simp only [Submonoid.coe_mul, coe_mul, rootsOfUnity.val_mkOfPowEq_coe, Units.val_mul]
    rw [← scalar_eq_coe_self_center A i, ← scalar_eq_coe_self_center B i]
    simp
```

**Comment by ocfnash** [comment]
Thanks for sticking with this; it looks good to me now. I won't send this to bors myself as I think I contributed a bit too heavily but I'll request someone else merge it.

maintainer merge

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean [hunk 7]
```diff
@@ -251,6 +259,76 @@ def map (f : R →+* S) : SpecialLinearGroup n R →* SpecialLinearGroup n S whe
...
+  rcases isEmpty_or_nonempty n with hn | ⟨⟨i⟩⟩; · exact ⟨by aesop, by simp [Subsingleton.elim A 1]⟩
+  refine ⟨fun h ↦  ⟨A i i, ?_, ?_⟩, fun ⟨r, _, hr⟩ ↦ mem_center_iff.mpr fun B ↦ ?_⟩
+  · have : det ((scalar n) (A i i)) = 1 := (scalar_eq_self_of_mem_center h i).symm ▸ A.property
+    simpa using this
+  · exact scalar_eq_self_of_mem_center h i
+  · suffices ↑ₘ(B * A) = ↑ₘ(A * B) from Subtype.val_injective this
+    simpa only [coe_mul, ← hr] using (scalar_commute (n := n) r (Commute.all r) B).symm
+
+/-- An equivalence of groups, from the center of the special linear group to the roots of unity. -/
+def center_equiv_rootsOfUnity' (i : n) :
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:296]: Maybe add `simps` here and below?

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean (hunk 7 above)
Comment (shuxuezhuyi) [reply Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:297]: Now `@[simps]` has been added to `center_equiv_rootsOfUnity'`. It generates these:
```lean
[simps.verbose] adding projection Matrix.SpecialLinearGroup.center_equiv_rootsOfUnity'_apply:
      ∀ {n : Type u} [inst : DecidableEq n] [inst_1 : Fintype n] {R : Type v} [inst_2 : CommRing R] (i : n)
        (A : ↥(Subgroup.center (Matrix.SpecialLinearGroup n R))),
        (Matrix.SpecialLinearGroup.center_equiv_rootsOfUnity' i) A = rootsOfUnity.mkOfPowEq (↑↑A i i) _ 

[simps.verbose] adding projection Matrix.SpecialLinearGroup.center_equiv_rootsOfUnity'_symm_apply_coe_coe:
      ∀ {n : Type u} [inst : DecidableEq n] [inst_1 : Fintype n] {R : Type v} [inst_2 : CommRing R] (i : n)
        (a : ↥(rootsOfUnity (Nat.toPNat' (Fintype.card n)) R)),
        ↑↑((MulEquiv.symm (Matrix.SpecialLinearGroup.center_equiv_rootsOfUnity' i)) a) = a • 1 
```
However, Neither `@[simps]` nor `@[simps!]` works for `center_equiv_rootsOfUnity`:
```quote
Invalid `simps` attribute. The body is not a constructor application
```

Comment (riccardobrasca) [reply Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:297]: OK, no problem. If you think this results are good idea let's keep them, but do as you prefer.

**Comment by mattrobball** [comment]
This should have been benchmarked. There are more new instructions in billions than new lines of code.

**Comment by riccardobrasca** [comment]
> This should have been benchmarked. There are more new instructions in billions than new lines of code.

Sorry for that, I didn't see any reason to do so. Do you have an idea of where the problem came from?

**Comment by mattrobball** [comment]
It looks like the `ext i j` in the `Subsingleton` instance takes 6+ seconds.

**Comment by mattrobball** [comment]
Correction the `ext` call in `map_mul’` is the culprit

**Comment by mattrobball** [comment]
#10738 gets most of them back. I am not sure why things are so expanded at the start of this proof. More thought might yield better results than this
